US07582773B2
Step 2: Synthesis of [4-(1-Benzyl-3-methyl-2-phenyl-1H-indol-6-yl)-phenoxy]-acetic acid.
The desired product was prepared using a procedure similar to step 2 of example 4. Thus, [4-(1-benzyl-3-methyl-2-phenyl-1H-indol-6-yl)-phenoxy]-acetic acid methyl ester (0.299 g, 0.648 mmol) was reacted with 1N KOH (1.3 ml) to give the product (0.231 g, 0.511 mmol, 79%) as a white solid, mp 202-205° C. 1H NMR (DMSO-d6) δ 2.23 (s, 3H), 4.68 (s, 2H), 5.39 (s, 2H), 6.86 (d, J=7.2 Hz, 2H), 6.96 (d, J=8.9 Hz, 2H), 7.13 (t, J=7.2 Hz, 1H), 7.18 (t, J=7.0 Hz, 2H), 7.34 (dd, J=1.4, 8.3 Hz, 1H), 7.39-7.44 (m, 3H), 7.49 (t, J=7.0 Hz, 2H), 7.56-7.61 (m, 4H); IR (solid) 3280, 2905, 1760, 1720, 1605, 1520, 1480, 1440, and 1240 cm1; [ESI(+)], m/z 448 (M+H)+; Anal. Calcd. for C30H25NO3.0.25H2O: C, 79.71; H, 5.57; N, 3.10; Found: C, 79.79; H, 5.66; N, 3.05.

reactant | [4-(1-benzyl-3-methyl-2-phenyl-1H-indol-6-yl)-phenoxy]-acetic acid methyl ester | 0.648 mmol, 0.299 g | COC(COC1=CC=C(C=C1)C1=CC=C2C(=C(N(C2=C1)CC1=CC=CC=C1)C1=CC=CC=C1)C)=O | C31H27NO3
reactant | KOH | 1N, 1.3 ml | [OH-].[K+]
product | [4-(1-Benzyl-3-methyl-2-phenyl-1H-indol-6-yl)-phenoxy]-acetic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC=C(C=C12)C1=CC=C(OCC(=O)O)C=C1)C)C1=CC=CC=C1 | C30H25NO3
